US04612376
To a mixture of ethyl veratroylacetate (45 g) and urea (11.7 g) were added conc. hydrochloric acid (5 drops) and ethanol (5 ml). The mixture was heated at 120° C. for 16 hours under reduced pressure. To the residue was added another conc. hydrochloric acid (5 drops) and ethanol (5 ml) and the mixture was heated again at 150° C. for 2 hours under reduced pressure. The resulting residue was washed successively with ethyl acetate, ethanol and isopropyl ether to give 6-(3,4-dimethoxyphenyl)-2,4(1H,3H)-pyrimidinedione (12.2 g).

reactant | ethyl veratroylacetate | 45 g | C(C1=CC(OC)=C(OC)C=C1)(=O)CC(=O)OCC | C13H16O5
reactant | urea | 11.7 g | NC(=O)N | CH4N2O
catalyst | hydrochloric acid | 5 drops | Cl | ClH
catalyst | hydrochloric acid | 5 drops | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 6-(3,4-dimethoxyphenyl)-2,4(1H,3H)-pyrimidinedione | 12.2 g | COC=1C=C(C=CC1OC)C1=CC(NC(N1)=O)=O | C12H12N2O4
